US07176210B2
Preparation of 4-[3-(4-Chlorophenyl)-2-(2-chlorophenyl)-5-methylpyrazolo[1,5-a]pyrimidin-7-yl]-piperazine-1-carboxylic Acid tert-Butyl Ester (5A-1)
To a solution of 7-chloro-3-(4-chlorophenyl)-2-(2-chlorophenyl)-5-methylpyrazolo[1,5-a]pyrimidine (I-3A-4b; 109 mg, 0.280 mmol) and Argonaut™ PS-DIEA (97 mg, 0.38 mmol) in 1,2-dichloroethane (2.8 ml) was added piperazine-1-carboxylic acid tert-butyl ester (70.5 mg, 0.378 mmol). The mixture was stirred at room temperature for 19 hours, filtered, concentrated and then purified on a Biotage™ Flash 12M column using 0–35% ethyl acetate in hexanes as eluant to afford, after trituration from hexanes/methylene chloride, product 5A-1 (132 mg, 88%) as an off-white solid: +ESI MS (M+1) 538.4; 1H NMR (400 MHz, CD2Cl2) δ 7.48–7.32 (m, 6H), 7.22 (d, J=8.7 Hz, 2H), 6.13 (s, 1H), 3.73–3.61 (m, 8H), 2.56 (s, 3H), 1.45 (s, 9H).

reactant | 7-chloro-3-(4-chlorophenyl)-2-(2-chlorophenyl)-5-methylpyrazolo[1,5-a]pyrimidine | 0.280 mmol, 109 mg | ClC1=CC(=NC=2N1N=C(C2C2=CC=C(C=C2)Cl)C2=C(C=CC=C2)Cl)C | C19H12Cl3N3
reactant | DIEA | 0.38 mmol, 97 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | piperazine-1-carboxylic acid tert-butyl ester | 0.378 mmol, 70.5 mg | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | 1,2-dichloroethane | 2.8 ml | ClCCCl | C2H4Cl2
product | 4-[3-(4-Chlorophenyl)-2-(2-chlorophenyl)-5-methylpyrazolo[1,5-a]pyrimidin-7-yl]-piperazine-1-carboxylic Acid tert-Butyl Ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=NC=2N1N=C(C2C2=CC=C(C=C2)Cl)C2=C(C=CC=C2)Cl)C | C28H29Cl2N5O2
